US08106064B2
3-[3-(5-Isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile (97):
To a stirred mixture of 3-(5-isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzaldehyde (2.26 g, 6.89 mmol) and diethyl cyanomethylphosphonate (1.14 ml, 7.03 mmol) in anhydrous THF (15 ml) at 0° C. (ice bath) under nitrogen atmosphere, was added potassium t-butoxide (0.85 g, 7.58 mmol). After stirring for 1 hr., the mixture was further stirred for 4 hr. at room temperature. The reaction mixture was diluted with ether, washed with water, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:4)) to afford 1.56 g (65%) of a white solid. m.p. 144-145° C.; 1H NMR (300 MHz, CDCl3) δ 1.19 (6H, d, J=6.9 Hz), 2.42 (3H, s), 2.83 (1H, m), 3.94 (3H, s), 4.08 (3H, s), 5.92 (1H, d, J=16.8 Hz), 3.39 (1H, d, J=16.8 Hz), 7.49 (1H, s), 7.69 (1H, s), 7.75 (1H, s).

reactant | 3-(5-isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzaldehyde | 6.89 mmol, 2.26 g | C(C)(C)C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C=O)C=C(C1)C | C18H20N2O4
reactant | diethyl cyanomethylphosphonate | 7.03 mmol, 1.14 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium t-butoxide | 7.58 mmol, 0.85 g | CC(C)([O-])C.[K+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-[3-(5-Isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile | 1.56 g, 65% | C(C)(C)C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C=C(C1)C)C=CC#N | C20H21N3O3
